US06242443B1
2-(3-Isopropylamino-1,1-dioxo-1,4-dihydro-1λ6,2,4-benzothiadiazin-6-yl)acetamide
Ammonia gas was passed through a solution of ethyl (3-isopropylamino-1,1-dioxo-1,4-dihydro-1λ6,2,4-benzothiadiazin-6-yl)acetate (0.20 g) and sodium cyanide (20 mg) in 10 ml of methanol at room temperature for 5 min. The solution was heated at 55-60° C. in a sealed flask overnight. The solvent was removed in vacuo and the residue was treated with 25 ml of water. On standing, a crystalline precipitate was formed. The crystals were filtered off and dried to give the title compound; m.p. 321-325° C.

reactant | Ammonia | N | H3N
reactant | ethyl (3-isopropylamino-1,1-dioxo-1,4-dihydro-1λ6,2,4-benzothiadiazin-6-yl)acetate | 0.20 g | C(C)(C)NC1=NS(C2=C(N1)C=C(C=C2)CC(=O)OCC)(=O)=O | C14H19N3O4S
reactant | sodium cyanide | 20 mg | [C-]#N.[Na+]
solvent | methanol | 10 ml | CO | CH4O
product | 2-(3-Isopropylamino-1,1-dioxo-1,4-dihydro-1λ6,2,4-benzothiadiazin-6-yl)acetamide | C(C)(C)NC1=NS(C2=C(N1)C=C(C=C2)CC(=O)N)(=O)=O | C12H16N4O3S
